US05122615
Preparation of 2,4-Dichloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile
Sulfuryl chloride (1.8 g) is added dropwise to a 0° C. mixture of 2-chloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile, ether (30 mL) and acetic acid (30 mL). After stirring for 2 hours at 0° C., the reaction mixture is poured into an ice-water slurry. The cold mixture is diluted with hexane and the solids are collected and dried to give the title compound as a beige solid (mp >200° C.) which is identified by 13C NMR spectral analysis.

reactant | Sulfuryl chloride | 1.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-chloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | ClC=1NC(=CC1C#N)C1=CC(=C(C=C1)Cl)Cl | C11H5Cl3N2
reactant | ether | 30 mL | CCOCC | C4H10O
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 2,4-Dichloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | ClC=1NC(=C(C1C#N)Cl)C1=CC(=C(C=C1)Cl)Cl | C11H4Cl4N2
